US06800651B2
N-(4-(4-Cyanophenyl)phenyl)-N-ethylsulfonylamine
4-Amino-4′-cyanobiphenyl (1.03 g, 5.3 mmol) (TCI) was dissolved in a mixture of 8 ml dichloromethane/2 ml pyridine was treated with ethanesulfonyl chloride (0.61 g, 5.3 mmol) and stirred for 18 h at room temperature. The solution was diluted with dichloromethane and washed twice with 1N HCl. The organic phase was separated, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound. 1H NMR: 7.75 (d,2H,J=8 Hz), 7.67 (d,2H,J=8 Hz), 7.60 (d,2H,J=8 Hz), 7.37 (d,2H,J=8 Hz), 6.90 (s,1H), 3.22 (q,2H,J=8 Hz), 1.45 (t,3H,J=8 Hz).

reactant | 4-Amino-4′-cyanobiphenyl | 5.3 mmol, 1.03 g | NC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H10N2
reactant | ethanesulfonyl chloride | 5.3 mmol, 0.61 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-(4-(4-Cyanophenyl)phenyl)-N-ethylsulfonylamine | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)NS(=O)(=O)CC | C15H14N2O2S
